US04317817
4-Diazo-17β-hydroxymethyl-5αandrostan-3-one is oxidized with pyridinium chlorochromate according to the procedure described in Example 4 to give 4-diazo-3-oxo-5α-androstane-17β-carboxaldehyde. In a similar manner, 4-diazo-17β-hydroxy-5α-androstan-3-one is oxidized with pyridinium chlorochromate to give 4-diazo-5α-androstane-3,17-dione.

reactant | 4-diazo-17β-hydroxy-5α-androstan-3-one | [N+](=[N-])=C1[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CCC1=O)C)O | C19H28N2O2
reactant | pyridinium chlorochromate | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
product | 4-diazo-5α-androstane-3,17-dione | [N+](=[N-])=C1[C@@H]2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CCC1=O)C)=O | C19H26N2O2
